US05157121
1-[(N-Methylsulfonyl-N-methylamino)sulfonyl]-3-(4-methoxy-6-methyl-2-pyrimidyl)urea
52.0 g of ethyl (N-methylsulfonyl-N-methylamino)sulfonylcarbamate are dissolved in 500 ml of chlorobenzene, 27.8 g of 2-amino-4-methoxy-6-methylpyrimidine are added at room temperature, and the mixture is heated at 50° C. for 5 hours. After cooling to 0° C., the precipitate is filtered off. After washing with 100 ml of chlorobenzene, 68.8 g of the desired product of a purity of 98.9% are obtained; this corresponds to a yield of 96.4% of theory. The melting point of the product is 118°-120° C.

reactant | ethyl (N-methylsulfonyl-N-methylamino)sulfonylcarbamate | 52.0 g | CS(=O)(=O)N(C)S(=O)(=O)NC(OCC)=O | C5H12N2O6S2
reactant | 2-amino-4-methoxy-6-methylpyrimidine | 27.8 g | NC1=NC(=CC(=N1)OC)C | C6H9N3O
solvent | chlorobenzene | 500 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-[(N-Methylsulfonyl-N-methylamino)sulfonyl]-3-(4-methoxy-6-methyl-2-pyrimidyl)urea | yield of 96.4% | CS(=O)(=O)N(C)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)C | C9H15N5O6S2
